US09290517B2
Step A: Ethyl 2-[(3R,3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilyl-ethoxy-methyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate
A mixture of 2-[[6-chloro-2-methylsulfonyl-5-(4-phenylphenyl)imidazo-[4,5-b]pyridin-1-yl]-methoxy]ethyl-trimethyl-silane (357 mg, 0.694 mmol), ethyl 2-[(3aR,6R,6aR)-6-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate (180 mg, 0.832 mmol), and DBU (150 uL, 0.995 mmol) in DMF (1.0 ml) was stirred at room temperature for 1 hour. The reaction mixture was diluted with EtOAc (200 ml), washed with water (5×30 ml), brine (1×10 mL), dried over MgSO4, filtered, and evaporated under reduced pressure to give the title compound as a mixture of isomers. C34H40ClN3O6Si 649.24 observed m/e: 650.28 (M+H)+ (Rt 1.09 and 1.17/2 min)

reactant | 2-[[6-chloro-2-methylsulfonyl-5-(4-phenylphenyl)imidazo-[4,5-b]pyridin-1-yl]-methoxy]ethyl-trimethyl-silane | 0.694 mmol, 357 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)S(=O)(=O)C | C25H28ClN3O3SSi
reactant | ethyl 2-[(3aR,6R,6aR)-6-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate | 0.832 mmol, 180 mg | O[C@@H]1CO[C@H]2[C@@H]1OCC2CC(=O)OCC | C10H16O5
reactant | DBU | 0.995 mmol, 150 uL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | Ethyl 2-[(3R,3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilyl-ethoxy-methyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1CC(=O)OCC | C34H40ClN3O6Si
